US07589088B2
To a stirred solution of methyl 2-(benzylsulfonyl)-4-(2,4-dichlorophenyl)-6-methylpyrimidine-5-carboxylate (17 mg, 0.037 mmol) in dioxane (2 mL) was added thiomorpholine (4.5 mL, 0.045 mmol). After at 40° C. for 1 hr, the reaction was concentrated under reduced pressure and diluted with EtOAc (10 mL). The organic layer was extracted with saturated NaHCO3 solution (2×6 mL), brine (5 mL), dried (MgSO4), filtered and concentrated under reduced pressure to give methyl 4-(2,4-dichlorophenyl)-6-methyl-2-thiomorpholinopyrimidine-5-carboxylate (15 mg, 100%). The crude reaction product (>98% purity) was moved onto next step without further purification.

reactant | methyl 2-(benzylsulfonyl)-4-(2,4-dichlorophenyl)-6-methylpyrimidine-5-carboxylate | 0.037 mmol, 17 mg | C(C1=CC=CC=C1)S(=O)(=O)C1=NC(=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C(=O)OC)C | C20H16Cl2N2O4S
reactant | thiomorpholine | 0.045 mmol, 4.5 mL | N1CCSCC1 | C4H9NS
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | methyl 4-(2,4-dichlorophenyl)-6-methyl-2-thiomorpholinopyrimidine-5-carboxylate | 15 mg, 100% | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC(=C1C(=O)OC)C)N1CCSCC1 | C17H17Cl2N3O2S
